US09282741B2
2-(3-Chloropyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl chloride
In a reaction vessel equipped with a thermometer, septum, nitrogen inlet and stirring bar, 500 mg (2.02 mmol) of 1-(3-chloro-2-pyridyl)-3-trifloromethyl-1H-pyrazole were dissolved in 3 ml of dry tetrahydrofuran. By means of a syringe, 2.0 ml of a 2 M solution of isopropyl magnesium chloride in tetrahydrofuran were added dropwise with stirring, while cooling the vessel with an ice bath and keeping the internal temperature at about 20° C. The ice bath was removed and the mixture was stirred for further 20 minutes at 23° C. Then the mixture was cooled again to −5° C. and 4.25 ml of a 20% (w/w) solution of phosgene in toluene were added dropwise with stirring. The mixture was allowed to war at 23° C. and stirred for further 1 h at 23° C. The thus obtained reaction mixture was evaporated to dryness, redissolved in toluene and stirred for further 30 min. at 50° C. Solids were removed by filtration and washed with toluene. The combined filtrates were evaporated to dryness to yield 0.53 g of the title compound with a purity >85% (yield 84.6%).

reactant | 1-(3-chloro-2-pyridyl)-3-trifloromethyl-1H-pyrazole | 2.02 mmol, 500 mg | ClC=1C(=NC=CC1)N1N=C(C=C1)C(F)(F)F | C9H5ClF3N3
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(3-Chloropyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl chloride | 0.53 g, yield 84.6% | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)Cl)C(F)(F)F | C10H4Cl2F3N3O
